US06407112B1
(S)-2a-(4-(9-(2-hydroxy)ethyl-2,3,4,9-tetrahydro-1H-pyrido[3,4-b]indol-2-yl)butyl)-2a,3,4,5-tetrahydro-1H-benz[cd]indol-2-one
(2-acetoxy)ethyl-2,3,4,9-tetrahydro-1H-pyrido[3,4-b]indole•trifluoroacetate (230 mg, 0.73 mmol) and (S)-4-bromobutyl)-2a,3,4,5-tetrahydro-1H-benz[cd]indol-2-one (185 mg, 0.6 mmol) were dissolved in dimethylformamide (5 ml). Then anhydrous potassium carbonate (280 mg, 2 mmol) was added thereto. The resulting reaction mixture was stirred at room temperature for 2 days. To the reaction mixture obtained was added ethyl acetate (50 ml), which was then washed with water (50 ml×2) and saturated saline solution, successively dried with anhydrous sodium sulfate. The ethyl acetate solution was concentrated under reduced pressure. To the resulting product were added methanol (30 ml) and triethylamine (3 ml), which was heated at 50° C. for 5 hours and then subjected to concentration again under reduced pressure to obtain a crude reaction product. Silica gel column chromatography was applied to purify the same, whereby 246 mg (yield 76%) of the above-described object compound could be obtained.

reactant | (2-acetoxy)ethyl-2,3,4,9-tetrahydro-1H-pyrido[3,4-b]indole•trifluoroacetate | 0.73 mmol, 230 mg | C(C)(=O)OCCC1NCCC2=C1NC1=CC=CC=C21.FC(C(=O)[O-])(F)F
reactant | 2a,3,4,5-tetrahydro-1H-benz[cd]indol-2-one | 0.6 mmol, 185 mg | N1C(C2C=3C(=CC=CC13)CCC2)=O | C11H11NO
reactant | potassium carbonate | 2 mmol, 280 mg | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
reactant | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | (S)-2a-(4-(9-(2-hydroxy)ethyl-2,3,4,9-tetrahydro-1H-pyrido[3,4-b]indol-2-yl)butyl)-2a,3,4,5-tetrahydro-1H-benz[cd]indol-2-one | 246 mg, yield 76% | OCCN1C2=C(C3=CC=CC=C13)CCN(C2)CCCC[C@]21C(NC=3C=CC=C(C23)CCC1)=O | C28H33N3O2
